US07592357B2
Step 1. Methyl 4-(4-chloro-2-fluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate
4-Chloro-2-fluorobenzaldehyde (1.00 g, 6.30 mmol, 1.00 equiv), 2,2-dimethyl-1,3-dioxane-4,6-dione (907 mg, 6.30 mmol, 1.00 equiv), methyl acetoacetate (0.679 mL, 6.30 mmol, 1.00 equiv), and ammonium acetate (0.512 g, 6.60 mmol, 1.05 equiv) were dissolved in acetic acid (7.0 mL) and heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, neutralized with solid K2CO3, and diluted with EtOAc and water. The phases were separated, and the organic phase was washed with satd. NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to a yellow residue. Recrystallization (CH2Cl2/hexanes) provided 503 mg (27%) of the product as a pale yellow solid. MS (ES+) m/e 298 [M+H]+.

reactant | 4-Chloro-2-fluorobenzaldehyde | 6.30 mmol, 1.00 g, 1.00 equiv | ClC1=CC(=C(C=O)C=C1)F | C7H4ClFO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 6.30 mmol, 907 mg, 1.00 equiv | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | methyl acetoacetate | 6.30 mmol, 0.679 mL, 1.00 equiv | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium acetate | 6.60 mmol, 0.512 g, 1.05 equiv | C(C)(=O)[O-].[NH4+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Methyl 4-(4-chloro-2-fluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate | 503 mg, 27% | ClC1=CC(=C(C=C1)C1C(=C(NC(C1)=O)C)C(=O)OC)F | C14H13ClFNO3
